US08557805B2
2-{2-[5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}-N-(2,2,2-trifluoroethyl)acetamide
To a solution of {2-[5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid (150 mg) in N,N-dimethylformamide (5 mL) were added 1-hydroxybenzotriazole monohydrate (65 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (81 mg), and 2,2,2-trifluoroethylamine (56 mg), and the mixture was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio) to give the title compound (102 mg, yield 60%) as a pale-yellow amorphous solid.

reactant | {2-[5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 150 mg | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C24H25N3O7S2
reactant | 1-hydroxybenzotriazole monohydrate | 65 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 81 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 2,2,2-trifluoroethylamine | 56 mg | FC(CN)(F)F | C2H4F3N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-{2-[5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}-N-(2,2,2-trifluoroethyl)acetamide | 102 mg, yield 60% | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)NCC(F)(F)F | C26H27F3N4O6S2
